US06656971B2
5-Phenoxymethyl-isophthalic acid dimethyl ester.
A mixture of 5-hydroxyisophthalic acid dimethyl ester (700 mg; 3.33 mmol), benzyl bromide (635 mg; 3.70 mmol), and potassium carbonate (510 mg; 3.7 mmol) in acetone was refluxed overnight. After cooling, the mixture was partitioned between water and ethyl acetate. The layers were separated, the aqueous layer was extracted twice more with ethyl acetate, and the combined organic portions were washed with brine, dried, and concentrated to provide a crude solid. Recrystallization from ethyl acetate/hexanes furnished the product as a white crystalline material, mp 95-97° C., 1H NMR (400 MHz): d 3.94 (s, 6H); 5.15 (s, 2H): 7.42 (m, 5H); 7.84 (s, 2H); 8.29 (s, 1H).

reactant | 5-hydroxyisophthalic acid dimethyl ester | 3.33 mmol, 700 mg | COC(C1=CC(C(=O)OC)=CC(=C1)O)=O | C10H10O5
reactant | benzyl bromide | 3.70 mmol, 635 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 3.7 mmol, 510 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-Phenoxymethyl-isophthalic acid dimethyl ester | COC(C1=CC(C(=O)OC)=CC(=C1)COC1=CC=CC=C1)=O | C17H16O5
